US05661159
To a being cooled suspension of 7-chloro-2-[2,4-bis-(methoxycarbonyl)phenoxymethyl]quinoline (0.3 g) in N,N-dimethylformamide (6 ml), sodium hydride ((60% in mineral oil) 31 mg). After being stirred at same temperature for 30 minutes and successively at ambient temperature for 3 hours, the resulting mixture was poured into a mixture of ethyl acetate and buffer (pH 4.1). The appeared precipitates were collected by filtration and washed with n-hexane to give 7-chloro-2-(5-methoxycarbonyl-3-hydroxybenzofuran-2-yl)quinoline (0.15

reactant | 7-chloro-2-[2,4-bis-(methoxycarbonyl)phenoxymethyl]quinoline | 0.3 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=C(C=C(C=C1)C(=O)OC)C(=O)OC | C20H16ClNO5
reactant | sodium hydride | 31 mg | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 7-chloro-2-(5-methoxycarbonyl-3-hydroxybenzofuran-2-yl)quinoline | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1O)C=C(C=C2)C(=O)OC | C19H12ClNO4
